US06239131B1
Preparation of 2-oxo-3-benzyloxycarbonylamino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
25% Hydrobromic acid-acetic acid (150 ml) was added to 1-methoxymethyl-2-oxo-3-amino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine hydrochloride (12.2 g). The resultant mixture was stirred for 30 minutes at room temperature. Ether was added thereto, and solid matter so precipitated was collected by filtration, to thereby obtain 2-oxo-3-amino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine hydrobromide. Water (100 ml) was added thereto so as to obtain a suspension. Benzyl chloroformate (6.23 g) in tetrahydrofuran (100 ml) and 1N aqueous sodium hydroxide (75 ml) were added to the suspension under cooling on ice, followed by stirring for one hour at room temperature. The reaction mixture was concentrated under reduced pressure, and water was added thereto, followed by extraction with methylene chloride. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1), to thereby obtain 9.6 g of the title compound (yield: 67.9 %).

reactant | Hydrobromic acid acetic acid | 150 ml | Br.C(C)(=O)O
reactant | 1-methoxymethyl-2-oxo-3-amino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine hydrochloride | 12.2 g | Cl.COCN1C(C(CN(C2=C1C=CC=C2)C2=CC=CC=C2)N)=O
reactant | Ether | CCOCC | C4H10O
reactant | Benzyl chloroformate | 6.23 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1N, 75 ml | [OH-].[Na+]
product | 2-oxo-3-benzyloxycarbonylamino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 9.6 g, yield: 67.9 % | O=C1C(CN(C2=C(N1)C=CC=C2)C2=CC=CC=C2)NC(=O)OCC2=CC=CC=C2 | C23H21N3O3
